US07125901B2
Step 2: N-{4-[2-(3-aminophenyl)ethyl]-1,3-thiazol-2-yl}acetamide
N-{4-[2-(3-Nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide (E,Z mixture) (315 mg) in a mixed solvent of methyl alcohol (3 ml), tetrahydrofuran (6 ml), and acetic acid (1 ml) was hydrogenated over 10% Palladium on carbon (50% wet, 200 mg) under 4.3 atmospheric pressure at room temperature for 3 hours. The catalyst was removed off by filtration, and the filtrate was evaporated in vacuo. The residue was poured into water, the pH of the aqueous layer was adjusted to 9 with aqueous sodium hydrogen carbonate. The resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (9 g) using a mixed solvent of n-hexane and ethyl acetate (2:1 to 1:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give syrup. The syrup of the objective compound was changed to solid in freezer (275 mg, 96.6%).

reactant | N-{4-[2-(3-Nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide | 315 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=CC=1N=C(SC1)NC(C)=O | C13H11N3O3S
reactant | methyl alcohol | 3 ml | CO | CH4O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
catalyst | Palladium on carbon | 200 mg | [Pd] | Pd
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | N-{4-[2-(3-aminophenyl)ethyl]-1,3-thiazol-2-yl}acetamide | NC=1C=C(C=CC1)CCC=1N=C(SC1)NC(C)=O | C13H15N3OS
